US07585885B2
N-Methyl-5-oxazol-2-yl-N-propyl-isophthalamic acid methyl ester
Add n-butyllithium (1.6 M in hexanes, 1.25 mL, 2.01 mmol) dropwise to a solution of oxazole (126 mg, 1.83 mmol) in THF (12.6 mL) at −78° C. Stir for 30 min at −78° C. and add a solution of zinc chloride (747 mg, 5.49 mmol) in diethyl ether (5.5 mL) and stir at 0° C. for 1 h. Add a solution of 5-iodo-N-methyl-N-propyl-isophthalamic acid methyl ester (330 mg, 0.91 mmol) in THF (5.1 mL) followed by tetrakis(triphenylphosphine)palladium (0) (105 mg, 0.091 mmol) and heat to reflux for 30 min. Add ethyl acetate (40 mL), wash with water (2×20 mL), dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 50:50 ethyl acetate:hexane) to give the title compound (225 mg, 82%).

reactant | n-butyllithium | 2.01 mmol, 1.6 M, 1.25 mL | C(CCC)[Li]
reactant | oxazole | 1.83 mmol, 126 mg | O1C=NC=C1 | C3H3NO
reactant | 5-iodo-N-methyl-N-propyl-isophthalamic acid methyl ester | 0.91 mmol, 330 mg | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)I)=O | C13H16INO3
solvent | THF | 12.6 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 5.5 mL | C(C)OCC | C4H10O
solvent | THF | 5.1 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | 5.49 mmol, 747 mg | [Cl-].[Zn+2].[Cl-]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.091 mmol, 105 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-Methyl-5-oxazol-2-yl-N-propyl-isophthalamic acid methyl ester | 225 mg, 82% | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C=1OC=CN1)=O | C16H18N2O4
